US06313122B1
B. 2-[(4-tert-Butylbenzoyl)amino]-N-(3-hydroxyphenyl)benzamide
To a stirred solution of N-(3-benzyloxyphenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide (0.58 g, 1.2 mmol) in tetrahydrofuran (50 mL) was added 10% palladium-on-carbon (0.29 g). The vessel was placed under vacuum and the atmosphere was replaced with hydrogen (1 atm). After 12 h, the balloon was removed and the mixture was filtered through diatomaceous earth and concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with saturated aqueous sodium chloride solution, dried (magnesium sulfate), filtered, and concentrated In vacuo to give 0.41 g (88%) of the title compound as an off-white solid.

reactant | N-(3-benzyloxyphenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide | 1.2 mmol, 0.58 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C31H30N2O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 0.29 g | [Pd] | Pd
product | 2-[(4-tert-Butylbenzoyl)amino]-N-(3-hydroxyphenyl)benzamide | 0.41 g, 88% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC(=CC=C3)O)C=CC=C2)C=C1 | C24H24N2O3
